US08071768B2
a) 4-(7-Fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide
Prepared essentially as described in Example 67 using 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester and (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride, which was prepared as described in Example 66a. 1H NMR (CDCl3) δ 9.23 (s, 1H), 9.21 (dd, J=9.35 Hz and 5.85 Hz, 1H), 7.69 (dd, J=9.48 and 2.52 Hz, 1H), 7.44 (m, 1H), 7.27 (d, J=8.95 Hz, 2H), 6.89 (d, J=8.95 Hz, 2H), 6.29 (s, 1H), 4.27 (m, 2H), 3.86 (t, J=4.74 Hz, 4H), 3.73 (m, 1H), 3.17 (m, 2H), 3.11 (t, J=4.78 Hz, 4H), 2.15 (m, 2H), 1.99 (m, 2H). Calcd for C24H27FN5O2 (MH+) 436.2, found 436.1.

reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
reactant | (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCOCC1)=O
product | 4-(7-Fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C24H26FN5O2
